US04287341
Equimolar amounts (0.10 mole) of 7,8-dimethoxy-2,4-(1H,3H)-quinazolinedione and phosphorous oxychloride are stirred at room temperature overnight and the volatiles evaporated in vacuo to afford a residue of 2-chloro-7,8-dimethoxy-4(3H)-quinazolineone which is purified by washing with aqueous sodium bicarbonate, extraction with chloroform and evaporation of solvent. To the residue is added a solution of 0.10 mole of 3-methylpiperadine in 300 ml. of isoamyl alcohol and the mixture heated at reflux for three hours, the solvent is then evaporated in vacuo to afford 2-(3-methylpiperidin-1-yl)-7,8-dimethoxy-4(3H)-quinazolineone hydrochloride. To this is added 150 ml. of phosphorous oxychloride and the resulting mixture is heated at reflux for two hours. The liquids are evaporated to give a residue of 2-(3-methylpiperidin-1-yl)-4-chloro-7,8-dimethoxyquinazoline hydrochloride. The product is dissolved in dilute aqueous sodium bicarbonate, extracted with chloroform, dried (Na2SO4) and the solvent evaporated.

reactant | 7,8-dimethoxy-2,4-(1H,3H)-quinazolinedione | 0.10 mole | COC1=CC=C2C(NC(NC2=C1OC)=O)=O | C10H10N2O4
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-7,8-dimethoxy-4(3H)-quinazolineone | ClC1=NC2=C(C(=CC=C2C(N1)=O)OC)OC | C10H9ClN2O3
